US08466282B2
1-tert-butyl 3-methyl(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate
1-tert-Butyl 3-methyl(3R,5S)-5-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (30 g) and 4-methoxybutyl methanesulfonate (12.5 g) were dissolved in DMA (600 ml), cesium carbonate (32 g) was added, and the mixture was stirred at 70° C. for 12 hr. The reaction mixture was poured into ice water (1000 ml), and the mixture was extracted twice with ethyl acetate (1000 ml). The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:4-1:1) was concentrated under reduced pressure to give the object product (28.7 g).

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-[(1H-benzimidazol-2-ylcarbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 30 g | N1C(=NC2=C1C=CC=C2)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C24H34N4O5
reactant | 4-methoxybutyl methanesulfonate | 12.5 g | CS(=O)(=O)OCCCCOC | C6H14O4S
reactant | cesium carbonate | 32 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 600 ml | CC(=O)N(C)C | C4H9NO
product | 1-tert-butyl 3-methyl(3R,5S)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 28.7 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@H]2C[C@H](CN(C2)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C29H44N4O6
